US07351339B2
8.06 g (74.2 mmol) of chlorotrimethylsilane were added dropwise while stirring at 0° C. to a solution of 5.00 g (67.5 mmol) of 2-butanol and 6.10 g (74.2 mmol) of 1-methylimidazole. The reaction mixture was stirred at 0° C. for a further 30 min and at 80° C. for 5 min to form a liquid biphasic mixture. Removal of the upper phase gave 8.50 g (theory: 9.88 g) of 2-trimethylsilyloxybutane as a colorless, slightly cloudy oil having a purity of 96% (GC).

reactant | chlorotrimethylsilane | 74.2 mmol, 8.06 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | 2-butanol | 67.5 mmol, 5.00 g | CC(CC)O | C4H10O
reactant | 1-methylimidazole | 74.2 mmol, 6.10 g | CN1C=NC=C1 | C4H6N2
product | 2-trimethylsilyloxybutane | 8.50 g | C[Si](OC(C)CC)(C)C | C7H18OSi
